US08293715B2
Synthesis of N-(3-hydroxyphenyl)benzamide
By using 3-aminophenol (1.0 g) and benzoyl chloride (644 mg) as starting materials, the title compound (573 mg) was obtained in the same manner as that of Reference Example 18.

reactant | 3-aminophenol | 1.0 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | benzoyl chloride | 644 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-(3-hydroxyphenyl)benzamide | 573 mg | OC=1C=C(C=CC1)NC(C1=CC=CC=C1)=O | C13H11NO2
